US09278983B2
To a mixture of 6-cyano-2-(2-ethylsulfanylphenyl)-3-methyl-3H-imidazo[4,5-b]pyridine (0.40 g) and chloroform (5 ml), 70% of 3-chloroperbenzoic acid (0.35 g) was added under ice-cooling, and stirred at room temperature for 2 hours. To the reaction mixture, saturated aqueous sodium hydrogen carbonate solution was added, and extracted with ethyl acetate. The organic layer was dried over sodium sulfate, and concentrated under reduced pressure to give 0.40 g of 6-cyano-2-(2-ethylsulfinylphenyl)-3-methyl-3H-imidazo[4,5-b]pyridine (hereinafter referred to as Present Compound 49).

reactant | 6-cyano-2-(2-ethylsulfanylphenyl)-3-methyl-3H-imidazo[4,5-b]pyridine | 0.40 g | C(#N)C=1C=C2C(=NC1)N(C(=N2)C2=C(C=CC=C2)SCC)C | C16H14N4S
reactant | 3-chloroperbenzoic acid | 0.35 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | chloroform | 5 ml | C(Cl)(Cl)Cl | CHCl3
product | 6-cyano-2-(2-ethylsulfinylphenyl)-3-methyl-3H-imidazo[4,5-b]pyridine | 0.40 g | C(#N)C=1C=C2C(=NC1)N(C(=N2)C2=C(C=CC=C2)S(=O)CC)C | C16H14N4OS
